US04192871
11β-Acryloyloxy-5α-pregnane-3,20-dione
A mixture of 11β-hydroxy-5α-pregnane-3,20-dione (332 mg), dry dioxan (20 ml), 4-dimethylaminopyridine (33 mg) and acrylic anhydride (1 ml) was stood at room temperature overnight. More 4-dimethylaminopyridine (20 mg) was added and the mixture stood at room temperature for a further 5 days. The reaction mixture was kept at 100° for 48 hours before adding more 4-dimethylaminopyridine (100 mg) and acrylic anhydride (1 ml). After a further 72 hours at 100°, the reaction mixture was partitioned between ethyl acetate and saturated aqueous sodium bicarbonate solution. The organic phase was washed three times with water, dried (Na2SO4) and evaporated to a froth. Preparative TLC (ethyl acetate/petrol 1:1) and trituration with ether afforded title compound (60 mg). m.p. 135°-144°, [α]D +122°.

reactant | 11β-hydroxy-5α-pregnane-3,20-dione | 332 mg | O[C@@H]1[C@@H]2[C@]3(CCC(C[C@@H]3CC[C@H]2[C@@H]2CC[C@H](C(C)=O)[C@]2(C1)C)=O)C | C21H32O3
reactant | acrylic anhydride | 1 ml | C(C=C)(=O)OC(C=C)=O | C6H6O3
reactant | acrylic anhydride | 1 ml | C(C=C)(=O)OC(C=C)=O | C6H6O3
catalyst | 4-dimethylaminopyridine | 33 mg | CN(C1=CC=NC=C1)C | C7H10N2
catalyst | 4-dimethylaminopyridine | 20 mg | CN(C1=CC=NC=C1)C | C7H10N2
catalyst | 4-dimethylaminopyridine | 100 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dioxan | 20 ml | O1CCOCC1 | C4H8O2
product | 11β-Acryloyloxy-5α-pregnane-3,20-dione | 60 mg | C(C=C)(=O)O[C@@H]1[C@@H]2[C@]3(CCC(C[C@@H]3CC[C@H]2[C@@H]2CC[C@H](C(C)=O)[C@]2(C1)C)=O)C | C24H34O4
